US07485665B2
644 g of N-acetyl-4-azido-L-proline ethyl ester dissolved in 700 ml of ethanol was added dropwise to a suspension of 2.5 L of ethanol and 162 g of sodium borohydride at not higher than 10° C. while cooling. After overnight reaction, 35% hydrochloric acid (594 g) was added dropwise to the above mixture at not higher than 20° C. while cooling, and the solution was neutralized with sodium bicarbonate (24 g). After filtration, the solution was concentrated under reduced pressure while the solvent was substituted with 1.3 L of isopropyl alcohol, thereby to obtain 534 g of (2S,4S)-N-acetyl-4-azido-2-hydroxymethylpyrrolidine as an oil.

reactant | N-acetyl-4-azido-L-proline ethyl ester | 644 g | C(C)OC([C@H]1N(CC(C1)N=[N+]=[N-])C(C)=O)=O | C9H14N4O3
reactant | sodium borohydride | 162 g | [BH4-].[Na+]
reactant | hydrochloric acid | 594 g | Cl | ClH
solvent | ethanol | 700 ml | C(C)O | C2H6O
catalyst | sodium bicarbonate | 24 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 2.5 L | C(C)O | C2H6O
product | (2S,4S)-N-acetyl-4-azido-2-hydroxymethylpyrrolidine | 534 g | C(C)(=O)N1[C@@H](C[C@@H](C1)N=[N+]=[N-])CO | C7H12N4O2
